US07377939B2
Synthesis: Elastic block copolymers were synthesized by polycondensation reaction between terephthalic acid, sebacic acid, and glycerol. The molar ratio of the two acids is 40:60 terephthalic: sebacic. Dimethyl terephthalate was synthesized by refluxing terephthalic acid in methanol in the presence of 5 mole % concentrated H2SO4 overnight. After solvent removal under vacuum, the crude product was purified by extraction and vacuum distillation, and stored anhydrously. Dry dimethyl terephthalate and anhydrous glycerol were heated at 150° C. in an inert atmosphere for 8 hours before sebacic acid was added. Catalytic amount of zinc acetate was added to the mixture, and it was heated for another 24 hours. The viscous liquid obtained was poured into a Teflon mold while still hot, transferred into a vacuum oven, and cured at 180° C., 50 mTorr for 12 h. The polymer [poly (glycerol sebacate-co-terephthalate)] film was cut into square prism of about 7×7×3 mm. Three specimens were mounted a mechanical tester and subjected to unconstrained compression. The polymer is highly elastic, as demonstrated by the low plastic deformation when compressed repeatedly. In addition, the polymer maintained its integrity even when compressed to 80% (See FIG. 3).

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | methanol | CO | CH4O
product | Dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
